US05670633
2,2'-Anhydrouridine (15.5 g, 68.2 mmol) [Rao, T. S. and Reese, C. B. (1989) J. Chem. Soc., Chem. Commun., 997], methanethiol (15.7 g, 327 mmol), 1,1,3,3-tetramethylguanidine (39.2 g, 341 mmol) and dimethylforamide (150 ml), were heated together at 60° C. After 12 hr, the reaction mixture was cooled and concentrated under reduced pressure. The residual oil was purified by flash column chromatography on silica gel (300 g). Concentration of the appropriate, fractions, which were eluted with CH2Cl2 -MeOH (9:1, v/v), and drying of the residue under high vacuum gave 2'-deoxy-2'-methylthiouridine as a pale yellow solid (14.11 g, 75.4%). Attempts to crystallize the solids from ethanol-hexanes (as reported by Imazawa, M., Ueda, T., and Ukita, T. (1975) Chem. Pharm. Bull., 23:604) failed and the material turned into a hygroscopic foam.

reactant | 2,2'-Anhydrouridine | 68.2 mmol, 15.5 g | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C9H10N2O5
reactant | methanethiol | 327 mmol, 15.7 g | CS | CH4S
reactant | 1,1,3,3-tetramethylguanidine | 341 mmol, 39.2 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | dimethylforamide | 150 ml | CN(C=O)C | C3H7NO
product | 2'-deoxy-2'-methylthiouridine | 14.11 g, 75.4% | C[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=S)NC(=O)C=C1 | C10H14N2O4S
